US09163021B2
2-(2-cyclopropyl-5-methyl-1,3-oxazol-4-yl)-N-(5-{[1-(propan-2-yl)-1H-pyrrolo[3,2-c]pyridin-3-yl]carbonyl}pyridin-3-yl)acetamide
To a mixture of (5-aminopyridin-3-yl)(1-isopropyl-1H-pyrrolo[3,2-c]pyridin-3-yl)methanone (Preparation 19, 80 mg, 0.285 mmol) and (2-cyclopropyl-5-methyl-1,3-oxazol-4-yl)acetic acid (Preparation 87, 52 mg, 0.285 mmol) in THF (5 mL) was added triethylamine (138 uL, 0.997 mmol) and propylphosphonic anhydride (429 uL, 0.712 mmol). The reaction was stirred at room temperature for 18 hours. The reaction was concentrated to dryness and purified using preparative HPLC to afford the title compound as a white solid (50 mg, 39%).

reactant | (5-aminopyridin-3-yl)(1-isopropyl-1H-pyrrolo[3,2-c]pyridin-3-yl)methanone | 0.285 mmol, 80 mg | NC=1C=C(C=NC1)C(=O)C1=CN(C2=C1C=NC=C2)C(C)C | C16H16N4O
reactant | (2-cyclopropyl-5-methyl-1,3-oxazol-4-yl)acetic acid | 0.285 mmol, 52 mg | C1(CC1)C=1OC(=C(N1)CC(=O)O)C | C9H11NO3
reactant | triethylamine | 0.997 mmol, 138 uL | C(C)N(CC)CC | C6H15N
reactant | propylphosphonic anhydride | 0.712 mmol, 429 uL | CCCP(=O)=O | C3H7O2P
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | 2-(2-cyclopropyl-5-methyl-1,3-oxazol-4-yl)-N-(5-{[1-(propan-2-yl)-1H-pyrrolo[3,2-c]pyridin-3-yl]carbonyl}pyridin-3-yl)acetamide | 50 mg, 39% | C1(CC1)C=1OC(=C(N1)CC(=O)NC=1C=NC=C(C1)C(=O)C1=CN(C2=C1C=NC=C2)C(C)C)C | C25H25N5O3
